US07256294B2
b. Synthesis of 4-formylpiperidine-1-carboxylic acid methyl ester
To a solution of oxalyl chloride (4.1 mL, 8.2 mmol) in dichloromethane (4 mL) at −78° C. was added dropwise a solution of dimethylsulfoxide (1.2 mL, 16.4 mmol) in dichloromethane (4 mL). After stirring for 5 min, a solution of 4-hydroxymethyl-piperidine-1-carboxylic acid methyl ester (1.3 g, 7.5 mmol) in dichloromethane (5 mL) was added. The resulting solution was stirred for another 5 min, then triethylamine (5.2 mL, 37.3 mmol) was added and the mixture allowed to warm to −10° C. After stirring for 1 h, dichloromethane (100 mL) was added, and the organic layer was washed with 1M aqueous phosphoric acid, 1M aqueous sodium hydroxide, and brine. The solution was dried over sodium sulfate then evaporated to afford the title intermediate as a wheat colored oil (1.0 g, 5.8 mmol, 78%). 1H NMR (300 MHz, DMSO-d6): δ (ppm) 1.36 (m, 2H), 1.83 (m, 2H), 2.48 (br m, 1H), 2.93 (br t, 2H), 3.56 (s, 3H), 3.80 (br d, 2H), 9.56 (s, 1H).

reactant | oxalyl chloride | 8.2 mmol, 4.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 16.4 mmol, 1.2 mL | CS(=O)C | C2H6OS
reactant | 4-hydroxymethyl-piperidine-1-carboxylic acid methyl ester | 7.5 mmol, 1.3 g | COC(=O)N1CCC(CC1)CO | C8H15NO3
reactant | triethylamine | 37.3 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-formylpiperidine-1-carboxylic acid methyl ester | 5.8 mmol, 1.0 g, 78% | COC(=O)N1CCC(CC1)C=O | C8H13NO3
